US06355669B1
7 g of aluminum chloride was added by portions to 200 ml solution of 50 g 2,5-dichloro-2,5-dimethylhexane in orthoxylene at 0° C. under stirring. After the mixture was stirred at the same temperature for 15 minutes, it was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and then evaporated to give 60 g of 2,3,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene as a brown oil.

reactant | aluminum chloride | 7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,5-dichloro-2,5-dimethylhexane | 50 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | orthoxylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3,5,5,8,8-hexamethyl-5,6,7,8-tetrahydronaphthalene | 60 g | CC1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C16H24
